US08048897B2
(4) Synthesis of 1-(4-Ethylbenzyl)-3-[(1S,2S,3R,4R,5R)-2,3,4-trisbenzyloxy-5-(benzyloxymethyl)cyclohexyl]-1H-indole
In a nitrogen stream, triethylsilane (0.21 mL, 1.22 mmol) was added dropwise to a solution of (2R,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[1-(4-ethylbenzyl)-1H-indol-3-yl]cyclohexanol (469 mg, 0.61 mmol) in methylene chloride (6 mL) at 0° C. A boron trifluoride-diethyl ether complex (0.093 mL, 0.73 mmol) was added dropwise thereto over five minutes and the reaction mixture was stirred at 0° C. for two hours. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture and the resulting mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The residue obtained by distilling the solvent under reduced pressure was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:15)] to obtain the title compound (232 mg, 51%).

reactant | triethylsilane | 1.22 mmol, 0.21 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (2R,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[1-(4-ethylbenzyl)-1H-indol-3-yl]cyclohexanol | 0.61 mmol, 469 mg | C(C1=CC=CC=C1)O[C@H]1C(C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)CC | C52H53NO5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Ethylbenzyl)-3-[(1S,2S,3R,4R,5R)-2,3,4-trisbenzyloxy-5-(benzyloxymethyl)cyclohexyl]-1H-indole | 232 mg, 51% | C(C)C1=CC=C(CN2C=C(C3=CC=CC=C23)[C@H]2[C@@H]([C@H]([C@@H]([C@H](C2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C=C1 | C52H53NO4
